US04421768
1-FLUORO-2,5-DIAMINO-6-HEPTYNE DIHYDROCHLORIDE
A saturated solution of dry hydrogen chloride in dry ether (10 ml) is added to 1-fluoro-2,5-di-(N-tert.butoxycarbonylamino)-6-heptyne obtained as in Step D above (1 mmole) and left overnight at room temperature. The dichlorohydride which forms as crystals is filtered, washed with ether, and dried to give the title compound (0.21 g).

reactant | hydrogen chloride | Cl | ClH
reactant | 1-fluoro-2,5-di-(N-tert.butoxycarbonylamino)-6-heptyne | FCC(CCC(C#C)NC(=O)OC(C)(C)C)NC(=O)OC(C)(C)C | C17H29FN2O4
solvent | ether | 10 ml | CCOCC | C4H10O
product | 1-FLUORO-2,5-DIAMINO-6-HEPTYNE DIHYDROCHLORIDE | 0.21 g | Cl.Cl.FCC(CCC(C#C)N)N | InChI=1S/C7H13FN2.2ClH/c1-2-6(9)3-4-7(10)5-8;;/h1,6-7H,3-5,9-10H2;2*1H
